US05998432
Step E: Methyl 2-(6-aminopyridin-3-yl)-2-methylpropanoate
A solution of 2-(6-aminopyridin-3-yl)-2-methylpropanoic acid hydrochloride (35.0 g, 0.162 mmol) and concentrated H2SO4 (5 mL) in MeOH (250 mL) was heated at reflux overnight. After cooling to ambient temperature, the reaction was quenched cautiously with saturated aqueous NaHCO3 and concentrated in vacuo. The residue was partitioned between ethyl acetate and water, the organic phase separated and the aqueous phase re-extracted with ethyl acetate (×3). The combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue (31.6 g, 100%) was judged pure by a combination of TLC and 1H nmr analysis and was used without farther purification in the subsequent reaction.

reactant | 2-(6-aminopyridin-3-yl)-2-methylpropanoic acid hydrochloride | 0.162 mmol, 35.0 g | Cl.NC1=CC=C(C=N1)C(C(=O)O)(C)C
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 250 mL | CO | CH4O
product | Methyl 2-(6-aminopyridin-3-yl)-2-methylpropanoate | NC1=CC=C(C=N1)C(C(=O)OC)(C)C | C10H14N2O2
